US04314061
3,6-bis(3-n-butylaminopropyl)acridine trihydrochloride
The compound is prepared from 3,6-bis(3-chloropropoxy)acridine hydrochloride and n-butylamine as described in Example 15, giving 2.0 g. of the desired product as orange crystals, m.p. 247°-249° C.

reactant | 3,6-bis(3-chloropropoxy)acridine hydrochloride | Cl.ClCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCl
reactant | n-butylamine | C(CCC)N | C4H11N
product | 3,6-bis(3-n-butylaminopropyl)acridine trihydrochloride | Cl.Cl.Cl.C(CCC)NCCCC=1C=CC2=CC3=CC=C(C=C3N=C2C1)CCCNCCCC | InChI=1S/C27H39N3.3ClH/c1-3-5-15-28-17-7-9-22-11-13-24-21-25-14-12-23(10-8-18-29-16-6-4-2)20-27(25)30-26(24)19-22;;;/h11-14,19-21,28-29H,3-10,15-18H2,1-2H3;3*1H
